US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(benzofur-4-yl)piperidine
Beginning with 2.0 gm (10.2 mMol) 4-bromobenzofuran and 2.06 gm (10.2 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 2.24 gm (69%) of the desired compound were prepared essentially as described in EXAMPLE 19.

reactant | 4-bromobenzofuran | 10.2 mMol, 2.0 gm | BrC1=CC=CC2=C1C=CO2 | C8H5BrO
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 10.2 mMol, 2.06 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(benzofur-4-yl)piperidine | 2.24 gm, 69% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC=CC2=C1C=CO2)O)C | C21H23NO2
